US08703808B2
2) Preparation of (Z)-2-(4-methoxy-1H-indol-3-yl)-3-pyridin-3-yl-acrylonitrile
To a solution of sodium methanolate (261 mg, 4.8 mmol, 1.5 eq.) in anhydrous ethanol (40 mL) were added, under an argon atmosphere, of (4-methoxy-1H-indol-3-yl)-acetonitrile (600 mg, 3.2 mmol, 1.0 eq.) and, after 30 minutes stirring, pyridine-3-carbaldehyde (908 μL, 9.7 mmol, 3.0 eq.). The reaction apparatus was protected from light and the mixture heated at 60° C. Several amounts of sodium methanolate (4×1.0 eq.) and pyridine-3-carbaldehyde (4×1.0 eq.) were added after stirring for 24, 48, 72 and 96 hours respectively. The reaction was pursued for 2 days (6 days overall) at 60° C. and then, the solvent was removed under reduced pressure and the crude taken up in ethyl acetate. The organic layer was washed with water and brine, dried over MgSO4 and then, evaporated. The residue was purified by silica gel flash-column chromatography (eluent: CH2Cl2/EtOH, 98:2 to 97:3) to afford, after trituration with diethyl ether, the compound (27) as a yellow powder (510 mg, 58%). TLC: Rf=0.30 (CH2Cl2 96/EtOH 4); mp: 177° C.; 1H NMR (DMSO, 500 MHz): δ (ppm): 3.90 (3H, s, 4′-methoxy), 6.66 (1H, d, J5′-6′=7.9 Hz, H5′), 7.07 (1H, d, J7′-6′=7.9 Hz, H7′), 7.14 (1H, t, J6′-5′=J6′-7′=7.9 Hz, H6′), 7.55 (1H, dd, J5″-4″=7.9 Hz, J5″-6″=4.9 Hz, H5″), 7.62 (1H, s, H2′), 7.78 (1H, s, H3), 8.31 (1H, d, J4″-5″=7.9 Hz, H4″), 8.59 (1H, d, J6″-5″=4.9 Hz, H6″), 8.91 (1H, s, H2″), 11.67 (1H, s, indolic H); 13C NMR (DMSO, 75.5 MHz): δ (ppm): 55.6 (4′-methoxy), 101.4 (C5′), 106.0 (C7′), 108.6 (C2), 111.9 (C3′), 114.7 (C3a′), 119.1 (C1), 124.1 (C5″), 124.3 (C6′), 126.6 (C2′), 131.1 (C3″), 134.9 (C4″), 138.0 (C3), 139.0 (C7a′), 150.3 (C6″), 150.4 (C2″), 153.7 (C4′); ESI-MS: m/z 276.1 ([M+H]+), 298.1 ([M+Na]+); HRESI-MS: m/z 276.1137 (calcd for C17H14N3O, 276.1137).

reactant | sodium methanolate | 4.8 mmol, 261 mg, 1.5 eq. | C[O-].[Na+]
reactant | (4-methoxy-1H-indol-3-yl)-acetonitrile | 3.2 mmol, 600 mg, 1.0 eq. | COC1=C2C(=CNC2=CC=C1)CC#N | C11H10N2O
reactant | pyridine-3-carbaldehyde | 9.7 mmol, 908 μL, 3.0 eq. | N1=CC(=CC=C1)C=O | C6H5NO
reactant | sodium methanolate | 1.0 eq. | C[O-].[Na+]
reactant | pyridine-3-carbaldehyde | 1.0 eq. | N1=CC(=CC=C1)C=O | C6H5NO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | EtOH | CCO | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (Z)-2-(4-methoxy-1H-indol-3-yl)-3-pyridin-3-yl-acrylonitrile | COC1=C2C(=CNC2=CC=C1)/C(/C#N)=C/C=1C=NC=CC1 | C17H13N3O
